US05554620
A mixture of 1 g (8.26 mmol) of 4-methylpyridine-2-carboxaldehyde, and 1.41 g (8.3 mmol) of benzyl bromide in 10 mL of sulfolane was stirred and heated on a steam-bath overnight. The resulting mixture was triturated (repeatedly) with ethyl acetate and the solvent was decanted to isolate a dark gum. This residue was dissolved in water, and washed with ether, and the aqueous solution was concentrated in vacuo to afford 1-benzyl-4-methyl-2-formyl-pyridinium bromide, which was used without additional purification.

reactant | 4-methylpyridine-2-carboxaldehyde | 8.26 mmol, 1 g | CC1=CC(=NC=C1)C=O | C7H7NO
reactant | benzyl bromide | 8.3 mmol, 1.41 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | sulfolane | 10 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | O | H2O
product | 1-benzyl-4-methyl-2-formyl-pyridinium bromide | [Br-].C(C1=CC=CC=C1)[N+]1=C(C=C(C=C1)C)C=O | InChI=1S/C14H14NO.BrH/c1-12-7-8-15(14(9-12)11-16)10-13-5-3-2-4-6-13;/h2-9,11H,10H2,1H3;1H/q+1;/p-1
